US04927818
To a solution of malononitrile (300 g) and acetic acid (54.6 g) in acetonitrile (2.1 l) was added sodium nitrite (313 g) at 60-65° C. After being stirred at the same temperature for an hour, ethyl 2-bromo-2-methylpropanoate (797 g) was added to the mixture at 65° C. After being refluxed for five hours, the mixture was cooled to the ambient temperature and allowed to stand overnight. The resulting mixture was poured into a mixture of water (4.2 ) and diisopropyl ether (4.2 l). The separated organic layer was washed with water and brine, dried over magnesium sulfate and evaporated under reduced pressure to give 2-(1-ethoxycarbonyl-1-methylethoxyimino)propanedinitrile (860 g).

reactant | malononitrile | 300 g | C(CC#N)#N | C3H2N2
reactant | sodium nitrite | 313 g | N(=O)[O-].[Na+]
reactant | ethyl 2-bromo-2-methylpropanoate | 797 g | BrC(C(=O)OCC)(C)C | C6H11BrO2
reactant | diisopropyl ether | 4.2 l | C(C)(C)OC(C)C | C6H14O
solvent | acetonitrile | 2.1 l | C(C)#N | C2H3N
solvent | water | O | H2O
solvent | acetic acid | 54.6 g | C(C)(=O)O | C2H4O2
product | 2-(1-ethoxycarbonyl-1-methylethoxyimino)propanedinitrile | 860 g | C(C)OC(=O)C(C)(ON=C(C#N)C#N)C | C9H11N3O3
